US07915267B2
1-{3-[(2-([1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy)ethyl)oxy}phenyl]methanamine
By a method similar to that in Reference Example 20 and using, instead of 2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridine-4-carbonitrile, 3-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy}ethyl)oxy]benzonitrile obtained in Reference Example 31, the title compound was obtained as a colorless oil (504 mg, 99%).

reactant | 2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridine-4-carbonitrile | C1(=CC=CC=C1)C(N1N=C(N=C1)SCCOC1=NC=CC(=C1)C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H23N5OS
reactant | 3-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy}ethyl)oxy]benzonitrile | C1(=CC=CC=C1)C(N1N=C(N=C1)OCCOC=1C=C(C#N)C=CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H24N4O2
product | 1-{3-[(2-([1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy)ethyl)oxy}phenyl]methanamine | C1(=CC=CC=C1)C(N1N=C(N=C1)OCCOC=1C=C(C=CC1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28N4O2
